US04963590
4-(3,4-Dimethoxy-5-methylsulfonylphenyl)-3-methylbut-3-en-2-one
The procedure described in Example 8 was repeated using 2.44 g of 3,4-dimethoxy-5-methylsulfonylbenzaldehyde and 1.0 g of 2-butanone. Yield 2.0 g (63%), viscous oil.

reactant | 3,4-dimethoxy-5-methylsulfonylbenzaldehyde | 2.44 g | COC=1C=C(C=O)C=C(C1OC)S(=O)(=O)C | C10H12O5S
solvent | 2-butanone | 1.0 g | CC(CC)=O | C4H8O
product | 4-(3,4-Dimethoxy-5-methylsulfonylphenyl)-3-methylbut-3-en-2-one | COC=1C=C(C=C(C1OC)S(=O)(=O)C)C=C(C(C)=O)C | C14H18O5S
